US05239083
4-{2-[3-(1-cyclohexylindol-5-yl)isocrotonoyl amino]phenoxy}butyric acid (Compound 24)
0.22 g of compound 24 was obtained in a similar manner to those described in the Examples 1 to 2 using 0.47 g of ethyl 4-(2-aminophenoxy)butyrate and 0.30 g of 3-(1-cyclohexylindol-5-yl)isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 0.47 g | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-(1-cyclohexylindol-5-yl)isocrotonic acid | 0.30 g | C1(CCCCC1)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C | C18H21NO2
product | 4-{2-[3-(1-cyclohexylindol-5-yl)isocrotonoyl amino]phenoxy}butyric acid | C1(CCCCC1)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C | C28H32N2O4
